US08440710B2
Step 1: Cyclopropanesulfonic acid 4-amino-phenyl ester
This material was prepared from cyclopropanesulfonic acid 4-nitro-phenyl ester (J. F. King et al; Phosphorus, Sulfur and Silicon and the Related Elements; 1-4; 1993; p 445) (1.096 g) by hydrogenation over 10% Pd/C as catalyst, in ethanol/AcOEt as solvent (10 ml/15 ml) for 16 h, and at atmospheric pressure and RT. Yellow oil (0.55 g). MS (m/e): 214.2 [MH+].

reactant | cyclopropanesulfonic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OS(=O)(=O)C1CC1 | C9H9NO5S
reactant | Phosphorus | [P] | P
reactant | Sulfur | [S] | S
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol AcOEt | C(C)O.CCOC(=O)C
product | Cyclopropanesulfonic acid 4-amino-phenyl ester | NC1=CC=C(C=C1)OS(=O)(=O)C1CC1 | C9H11NO3S
